US07115611B2
In analogy to the procedures described in example 26B] and 124C], methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-amine (prepared from [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamic acid tert-butyl ester (example 125B] by N-methylation followed by Boc-cleavage in analogy to the procedures described in examples 5E] and 5F]) was reacted with 2-(4-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester (example 124A]) to give 2-methyl-2-[4-({methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamoyl}-methyl)-phenoxy]-propionic acid tert-butyl ester, which was subsequently cleaved with trifluoroacetic acid to yield the title compound as colorless solid.

reactant | methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-amine | CNC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H13F3N2
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C18H19F3N2O2
reactant | 2-(4-carboxymethyl-phenoxy)-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CC(=O)O)=O | C16H22O5
product | 2-methyl-2-[4-({methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-carbamoyl}-methyl)-phenoxy]-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(OC1=CC=C(C=C1)CC(N(C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O)C)=O | C30H33F3N2O4
